US07919498B2
Prepared according to Procedure I using 8-chloro-3-(chloromethyl)-2-(2-trifluoromethylphenyl)quinoline (0.356 g, 1.0 mmol), NaH (0.044 g 60% in oil, 1.1 mmol, 1.1 eq) and 3-iodo-1H-pyrazolo{3,4-d}pyrimidin-4-amine (0.287 g, 1.1 mmol, 1.1 eq) in 5 mL DMF. 1-((8-Chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine [PI3Kδ IC50=7 nM] was obtained after purification as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.40 (1 H, s), 8.08 (1 H, d, J=8.2 Hz), 7.96-8.03 (2 H, m), 7.74-7.84 (1 H, m), 7.56-7.70 (3 H, m), 7.26-7.37 (1 H, m), 5.47 (2 H, s) Mass Spectrum (ESI) m/e=580.9 and 583.0 (M+1)

reactant | 8-chloro-3-(chloromethyl)-2-(2-trifluoromethylphenyl)quinoline | 1.0 mmol, 0.356 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CCl | C17H10Cl2F3N
reactant | NaH | 1.1 mmol, 0.044 g, 1.1 eq | [H-].[Na+]
reactant | 3-iodo-1H-pyrazolo{3,4-d}pyrimidin-4-amine | 1.1 mmol, 0.287 g, 1.1 eq | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-((8-Chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CN1N=C(C=2C1=NC=NC2N)I | C22H13ClF3IN6
